US07524871B2
Synthesis of (±)-N-[(2-amino-5,6,7,8-tetrahydro-6 -quinazolinyl)methyl]-2-[3-[(benzyl-sulfonyl)amino]-6-methyl-2-oxo-1(2H)-pyridinyl]acetamide
The title compound was prepared from 2-[3-[(benzylsulfonyl)amino]-6 -methyl-2-oxo-1(2H)-pyridinyl]acetic acid and 6-(aminomethyl)-5,6,7,8-tetrahydro-2-quinazolinamine using the procedure of EXAMPLE 1 (STEP 6), and was obtained as a white solid compound.

reactant | 2-[3-[(benzylsulfonyl)amino]-6 -methyl-2-oxo-1(2H)-pyridinyl]acetic acid | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)O)=O | C15H16N2O5S
reactant | 6-(aminomethyl)-5,6,7,8-tetrahydro-2-quinazolinamine | NCC1CC=2C=NC(=NC2CC1)N | C9H14N4
product | (±)-N-[(2-amino-5,6,7,8-tetrahydro-6 -quinazolinyl)methyl]-2-[3-[(benzyl-sulfonyl)amino]-6-methyl-2-oxo-1(2H)-pyridinyl]acetamide | NC1=NC=2CCC(CC2C=N1)CNC(CN1C(C(=CC=C1C)NS(=O)(=O)CC1=CC=CC=C1)=O)=O | C24H28N6O4S
